US04166120
3.8 g of nitric acid (sp gr 1.42) in 30 ml of glacial acetic acid is added dropwise to a stirred solution of 4.7 g of 2,3-dihydro-1'-acetylspiro[benzofuran-2,4'-piperidine] in 65 ml of glacial acetic acid. After total addition, the reaction mixture is slowly heated to 100° C. over a 2 hour span and then cooled and poured into 500 ml of water. The diluted mixture is extracted with chloroform and the chloroform extracts are washed sequentially with a saturated sodium bicarbonate solution, a saturated sodium chloride solution and then dried. The chloroform is removed under reduced pressure. The residue is triturated with ether causing an orange precipitate, which is collected and recrystallized first from an ethyl alcohol-ether mixture and then from ethyl alcohol to provide the product, 2,3-dihydro-1'-acetyl-5-nitrospiro[benzofuran-2,4'-piperidine], mp 149°-150° C.

reactant | nitric acid | 3.8 g | [N+](=O)(O)[O-] | HNO3
reactant | 2,3-dihydro-1'-acetylspiro[benzofuran-2,4'-piperidine] | 4.7 g | C(C)(=O)N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C14H17NO2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-1'-acetyl-5-nitrospiro[benzofuran-2,4'-piperidine] | C(C)(=O)N1CCC2(CC1)OC1=C(C2)C=C(C=C1)[N+](=O)[O-] | C14H16N2O4
